US08937090B2
8) N-cyclohexyl-β-alanine
22 g of cyclohexylamine were added to 40 mL of ethanol, 10 g of ethyl 3-bromopropionate were added, and the mixture was heated and refluxed for two hours. The reaction system was concentrated under reduced pressure, the resulting residue was extracted with 200 mL of ethyl acetate, the organic layer was desiccated over anhydrous magnesium sulfate, and the product was then filtered and concentrated. The residue was purified by distillation under reduced pressure, and 6.3 g of N-cyclohexylmethyl β-alanine ethyl ester (yield of 57%) were obtained. 1.26 g of sodium hydroxide were dissolved in 200 mL of water, 6.3 g of N-cyclohexyl-β-alanine ethyl ester were added, and THF was added for dissolution. After stirring for one hour, the product was neutralized using Dowex 50WX4-[H+] and filtered, and the filtrate was concentrated under reduced pressure. The resulting residue was recrystallized and 3.2 g of the desired product were obtained (yield of 64%).

reactant | sodium hydroxide | 1.26 g | [OH-].[Na+]
reactant | N-cyclohexyl-β-alanine ethyl ester | 6.3 g | C(C)OC(CCNC1CCCCC1)=O | C11H21NO2
reactant | THF | C1CCOC1 | C4H8O
solvent | water | 200 mL | O | H2O
product | N-cyclohexyl-β-alanine | 3.2 g, yield of 64% | C1(CCCCC1)NCCC(=O)O | C9H17NO2
